### PR TITLE
[Merged by Bors] - feat: improve mean value theorems of complex analysis

### PR DESCRIPTION
**Pull request by kebekus**
Implement improvements in the mean value theorems of complex analysis, as suggested by Mihai Iancu and Sebastian Schleißinger.

- Remove unnecessary assumptions that can be deduced from the other assumptions.
- Weaken and simplify assumptions, use `DiffContOnCl` now.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/MeanValue.lean [hunk 1]
```diff
@@ -60,11 +40,26 @@ countably many points of its interior, then for every point `w` in the disk, the
...
     (h₁f : ContinuousOn f (closedBall c |R|)) (h₂f : ∀ z ∈ ball c |R| \ s, DifferentiableAt ℂ f z)
-    (hw : w ∈ ball c |R|) (hR : R ≠ 0) :
+    (hw : w ∈ ball c |R|) :
     circleAverage (fun z ↦ ((z - c) / (z - w)) • f z) c R = f w := by
   rw [← circleAverage_abs_radius]
-  exact circleAverage_of_differentiable_on_off_countable_posRadius (by simpa)
-    hs h₁f h₂f hw
+  by_cases hR : |R| ≤ 0
+  · simp_all [(ball_eq_empty).2 hR]
+  rw [not_le] at hR
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/MeanValue.lean]:
```suggestion
  rcases le_or_gt (|R|) 0 with hR | hR
  · simp_all [(ball_eq_empty).2 hR]
```

File: Mathlib/Analysis/Complex/MeanValue.lean [hunk 2]
```diff
@@ -73,11 +68,15 @@ point `w` in the disk, the circle average `circleAverage (fun z ↦ ((z - c) * (
 equals `f w`.
 -/
 theorem circleAverage_sub_sub_inv_smul_of_differentiable_on
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/MeanValue.lean]: Since you're changing the lemma, you also have to change its name because now it should be phrased with `diffContOnCl`. I'd go with `circleAverage_smul_of_diffContOnCl`, but maybe you have a better idea. You should also deprecate the old name, then.

File: Mathlib/Analysis/Complex/MeanValue.lean [hunk 3]
```diff
@@ -108,11 +106,11 @@ The **Mean Value Property** of complex differentiable functions: If `f : ℂ →
 differentiable at all points of a closed disc of radius `R` and center `c`, then the circle average
 `circleAverage f c R` equals `f c`.
 -/
-theorem circleAverage_of_differentiable_on (hf : ∀ z ∈ closedBall c |R|, DifferentiableAt ℂ f z) :
+theorem circleAverage_of_differentiable_on (hf : DiffContOnCl ℂ f (ball c |R|)) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/MeanValue.lean]: ditto

File: Mathlib/Analysis/Complex/MeanValue.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/MeanValue.lean]: Implemented.

File: Mathlib/Analysis/Complex/MeanValue.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/MeanValue.lean]: Implemented.

**Comment by sgouezel** [comment]
bors r+
Thanks!
